US04587341
To 8-hydroxyquinoline (9.47 g, 0.065 mol) in dimethyl sulfoxide (50 ml) was added 2 -methoxyethyl bromide (8.96 g, 0.065 mol). The mixture was stirred at room temperature for two hours, and turned a dark red. The solvent was removed under vacuum, and the residue dissolved in water. The aqueous solution was extracted several times with ethyl acetate, and the ethyl acetate solution was then washed well with water, dried, and the solvent removed; the residual oil weighed 7.45 g. This was purified on a silica gel column, eluted with heptane:ethyl acetate, with increasing proportions of the latter. There was isolated 8-methoxyethoxyquinoline (7.11 g) as a light blue oil. NMR: (CDCl3) δ 3.51 (s, 3, OMe), 4.01 (tr, 2, CH2), 4.48 (tr, 2, CH2), 7.20 (m, 1, beta-pyridine-H), 7.45 (m, 3, Ar), 8.15 (dd, 1, gamma-pyridine-H), 8.98 (dd, 1, alpha-pyridine-H). Anal. Calcd. for C12H13NO2 : C, 70.92; H, 6.45; N, 6.89. Found: C, 70.80; H, 6.49; N, 6.90.

reactant | 8-hydroxyquinoline | 0.065 mol, 9.47 g | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | 2 -methoxyethyl bromide | 0.065 mol, 8.96 g | COCCBr | C3H7BrO
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 8-methoxyethoxyquinoline | 7.11 g | COCCOC=1C=CC=C2C=CC=NC12 | C12H13NO2
